US05550132
1-[(2-Hydroxyethoxy)Methyl]Thymine
To a solution of 1-[(2-acetoxyethoxy)methyl]thymine (4 g, 16 mmol) in CH3OH (100 mL) was added NaOCH3 in CH3OH (20 mL, 1N). After 2 hours of stirring at room temperature, 1N HCl was added to adjust the pH to 4.0. Methanol and water were removed under vacuum to obtain a solid. The solid was dissolved in CH3OH and crystallized by dropwise addition of CHCl3; it was used in the next reaction without further purification. Yield 76%; Wt. 2.5 g; mp 154°-156° C.; 1H NMR (DMSO-d6) 1.75 (s, CH3 C5 thymine), 3.55-3.75 (A2B2 pattern, O CH2 CH2 O), 5.10 (s, O CH2 N), 7.55 (s, H C6 thymine), 11.3 (s, HN thymine).

reactant | 1-[(2-acetoxyethoxy)methyl]thymine | 16 mmol, 4 g | C(C)(=O)OCCOCN1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | NaOCH3 | O([Na])C
reactant | HCl | 1N | Cl | ClH
solvent | CH3OH | 100 mL | CO | CH4O
solvent | CH3OH | 1N, 20 mL | CO | CH4O
product | 1-[(2-Hydroxyethoxy)Methyl]Thymine | Yield 76% | OCCOCN1C(=O)NC(=O)C(C)=C1 | C8H12N2O4
